US07132426B2
Step 1: Preparation of 4-Methanesulfonyl-benzoic acid phenyl ester.
To a solution of the 4-methanesulfonyl-benzoic acid (20 g, 99.9 mmol) in CH2Cl2 (150 mL), was oxalyl chloride (13.1 mL, 149.9 mmol) added. The reaction mixture was cooled to 0° C. and treated with DMF (2 mL). The reaction was warmed to room temperature and maintained for 10 h. The reaction was concentrated under vacuum and dissolved with CH2Cl2 (200 mL). The reaction was treated with phenol (10.5 mL, 120 mmol) followed by Et3N (16.7 mL, 120 mmol) at 0° C. The reaction was warmed to room temperature and stirred for 7 hr. The reaction was extracted with CH2Cl2 (500 mL), dried and concentrated under vacuum. The desired compound, 4-methanesulfonyl-benzoic acid phenyl ester, was obtained by recrystallization from methanol (200 mL) as a white crystal in 78% yield (21.5 g). 1H NMR (400 Mz, DMSO-d6) δ 8.41 (d, J=7.1, 2H), 8.39 (d, J=7.1, 2H), 7.55˜7.51 (m, 2H), 7.37˜7.35 (m, 3H), 3.35 (s, 3H). LCMS 277.0 [M+H].

reactant | 4-methanesulfonyl-benzoic acid | 99.9 mmol, 20 g | CS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C8H8O4S
reactant | oxalyl chloride | 149.9 mmol, 13.1 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | phenol | 120 mmol, 10.5 mL | C1(=CC=CC=C1)O | C6H6O
reactant | Et3N | 120 mmol, 16.7 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-methanesulfonyl-benzoic acid phenyl ester | C1(=CC=CC=C1)OC(C1=CC=C(C=C1)S(=O)(=O)C)=O | C14H12O4S
